US07713994B2
6-tert-Butyl-4-[(2-furan-3-yl-5-hydroxy-benzylamino)-methylene]-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound (purified through chromatography) is prepared from 6-tert-Butyl-4-methoxymethylene-4H-isoquinoline-1,3-dione (˜15 mg, 0.058 mmol) and 3-Aminomethyl-4-furan-3-yl-phenol (40 mg, 0.21 mmol) in 50% yield: MS (ESI): 415.1 (M−1)−1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-tert-Butyl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.058 mmol, ˜15 mg | C(C)(C)(C)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C15H17NO3
reactant | 3-Aminomethyl-4-furan-3-yl-phenol | 0.21 mmol, 40 mg | NCC=1C=C(C=CC1C1=COC=C1)O | C11H11NO2
product | 6-tert-Butyl-4-[(2-furan-3-yl-5-hydroxy-benzylamino)-methylene]-4H-isoquinoline-1,3-dione | 50% yield | C(C)(C)(C)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=C(C=CC(=C1)O)C1=COC=C1 | C25H24N2O4
